US07276506B2
Synthesis of 2,6-diamino-4-ethoxy-pyrimidine
To a solution of sodium (1.05 g) in ethanol (50 ml) was added 4-chloro-2,6-diaminopyrimidine (6 g, 41.4 mmoles). The resulting solution was heated in a reactor for 6 hours at 160° C. The reaction mixture was cooled down and the precipitated sodium chloride was filtered off. The filtrate was concentrated and precipitated from ethanol (two times), affording the pure title compound as a white solid (4.53 g, 72% yield). The spectral data are identical to those described e.g. by W. Pfleiderer et al. in Chem. Ber. (1961) 94, 12.

reactant | sodium | 1.05 g | [Na] | Na
reactant | 4-chloro-2,6-diaminopyrimidine | 41.4 mmoles, 6 g | ClC1=NC(=NC(=C1)N)N | C4H5ClN4
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 2,6-diamino-4-ethoxy-pyrimidine | 4.53 g, 72% yield | NC1=NC(=CC(=N1)OCC)N | C6H10N4O
